US07511059B2
N-(3-Amino-phenyl)-2,2-dimethyl-propionamide
5.0 g of 1,3-diaminobenzene is dissolved in 50 ml of dichloromethane and mixed at 0° C. with 24 ml of diisopropylethylamine and 10.4 ml of pivalic acid anhydride. It is stirred for 2 hours at 0° C. and for 18 hours at room temperature. The reaction mixture is mixed with semi-saturated sodium bicarbonate solution and extracted with ethyl acetate. The organic solution is washed with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation, and after purification by chromatography on silica gel, 5.7 g of the title compound is obtained.

reactant | 1,3-diaminobenzene | 5.0 g | NC1=CC(=CC=C1)N | C6H8N2
reactant | diisopropylethylamine | 24 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pivalic acid anhydride | 10.4 ml | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3-Amino-phenyl)-2,2-dimethyl-propionamide | 5.7 g | NC=1C=C(C=CC1)NC(C(C)(C)C)=O | C11H16N2O
